US05463077
By working in accordance with Example 1, starting from 0.5 g of (3aS,4S,5S,7aS)-7,7-diphenyl-4-phenyl-perhydroisoindole-4,5-diol hydrochloride and 0.25 g of (S)-2-(2 -methoxyphenyl)-propionic acid, 0.52 g of (3aS, 4S, 5S, 7aS)-7,7-diphenyl-4-phenyl-2-[-2-(2-methoxyphenyl)-(S)-propionyl]-perhydroisoindole-4,5 diol is obtained in the form of a white solid which melts with decomposition at 158° C.

reactant | (3aS,4S,5S,7aS)-7,7-diphenyl-4-phenyl-perhydroisoindole-4,5-diol hydrochloride | 0.5 g | Cl.C1(=CC=CC=C1)C1(C[C@@H]([C@@]([C@@H]2CNC[C@H]12)(O)C1=CC=CC=C1)O)C1=CC=CC=C1
reactant | (S)-2-(2 -methoxyphenyl)-propionic acid | 0.25 g | COC1=C(C=CC=C1)[C@@H](C(=O)O)C | C10H12O3
product | (3aS, 4S, 5S, 7aS)-7,7-diphenyl-4-phenyl-2-[-2-(2-methoxyphenyl)-(S)-propionyl]-perhydroisoindole-4,5 diol | 0.52 g | C1(=CC=CC=C1)C1(C[C@@H]([C@@]([C@@H]2CN(C[C@H]12)C([C@@H](C)C1=C(C=CC=C1)OC)=O)(O)C1=CC=CC=C1)O)C1=CC=CC=C1 | C36H37NO4
